US07511059B2
N-(3-Amino-5-chloro-phenyl)-2,2-dimethyl-propionamide
5.0 g of 5-chloro-1,3-diaminobenzene is dissolved in 50 ml of dichloromethane and 5 ml of dimethylformamide and mixed at 0° C. with 18.5 ml of diisopropylethylamine and 8.5 ml of pivalic acid anhydride. It is stirred for one hour at 0° C. and for 5 hours at room temperature. The reaction mixture is mixed with semi-saturated sodium bicarbonate solution and extracted with a mixture that consists of ethyl acetate and hexane (1:3). The organic solution is washed with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation, and after purification by chromatography on silica gel, 2.5 g of the title compound is obtained.

reactant | 5-chloro-1,3-diaminobenzene | 5.0 g | ClC=1C=C(C=C(C1)N)N | C6H7ClN2
reactant | diisopropylethylamine | 18.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pivalic acid anhydride | 8.5 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(3-Amino-5-chloro-phenyl)-2,2-dimethyl-propionamide | 2.5 g | NC=1C=C(C=C(C1)Cl)NC(C(C)(C)C)=O | C11H15ClN2O
